US04150139
To 2 ml of ethylene glycol was added 0.2 g of potassium hydroxide, followed by addition of 0.23 g of 3-methylthio-11H-s-triazolo[3,4-b][3]benzazepine. The mixture was stirred at 150°-160° C. for 2 hours, after which water was added. The mixture was made acidic with 4N-hydrochloric acid and extracted with chloroform. The chloroform layer was washed with water and dried over Na2SO4. The solvent was evaporated off and the residue was treated with ethyl acetate. By the above procedure was obtained 2,11-dihydro-3H-s-triazolo[3,4-b][3]benzazepin-3-one as crystals. Recrystallization from methanol yielded light-brown needles melting at 207°-208° C. The following compounds were produced by procedures similar to that of the above Reference Example.

reactant | ethylene glycol | 2 ml | C(CO)O | C2H6O2
reactant | potassium hydroxide | 0.2 g | [OH-].[K+]
reactant | 3-methylthio-11H-s-triazolo[3,4-b][3]benzazepine | 0.23 g | CSC1=NN=C2CC3=C(C=CN21)C=CC=C3 | C12H11N3S
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 2,11-dihydro-3H-s-triazolo[3,4-b][3]benzazepin-3-one | N=1NC(N2C1CC1=C(C=C2)C=CC=C1)=O | C11H9N3O
